US04888025
Preparation of 1-(2'-amino-4'-nitrophenoxy)-3-dimethylaminopropan-2-ol
0.085 mol (21.5 g) of 1-(2'-acetylamino-4'-nitrophenoxy)-2,3-epoxypropane (compound described in Example (4) is introduced into 100 ml of a 40% strength aqueous solution of dimethylamine, and the reaction mixture is stirred for 30 minutes at ambient temperature. After dilution by the addition of 225 ml of iced water, followed by neutralisation with acetic acid, the mixture is evaporated to dryness in vacuo. The dried residue is taken up in 150 ml of ethyl acetate. After washing with acetone, the material which is insoluble in ethyl acetate consists of 28.5 g of 1-(2'-acetylamino-4'-nitrophenoxy)-3-dimethylaminopropan-2-ol. This acetylated derivative is heated under reflux for two hours in 220 ml of ethanol saturated with hydrogen chloride. After the reaction medium has cooled, the expected product in the form of the hydrochloride is filtered off. After this hydrochloride has been dissolved in water and the aqueous solution has been rendered alkaline with sodium hydroxide solution, the 1-(2'-amino-4' -nitrophenoxy)-3-dimethylaminopropan-2-ol is precipitated in the form of crystals.

reactant | 1-(2'-acetylamino-4'-nitrophenoxy)-2,3-epoxypropane | 0.085 mol, 21.5 g | C(C)(=O)NC1=C(OCC2CO2)C=CC(=C1)[N+](=O)[O-] | C11H12N2O5
reactant | dimethylamine | CNC | C2H7N
reactant | water | 225 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2'-amino-4'-nitrophenoxy)-3-dimethylaminopropan-2-ol | NC1=C(OCC(CN(C)C)O)C=CC(=C1)[N+](=O)[O-] | C11H17N3O4
